US05552307
Nicotiana tabacum cv. Xanthi (tobacco) leaf cells (about 300-400 mg. fresh weight per flask) were grown in the dark in suspension in a growth medium, as described by Murashige and Skook (Physiol. Plantarum 1962 15: 473), containing 1 mg./l. 1-naphthaleneacetic acid, 0.1 mg./l. kinetin and 3% sucrose in 125 ml. Erlenmeyer flasks on a rotary shaker (120 rpm, 25° C.). The volume of growth medium per flask was 30 ml., which contained about 10-20 mg. fine mesh carborundum. Comparative runs were carried out with and without addition to the medium of modified protein in the form of oxidized BSA (20 μg./ml.). After 4 weeks, the cells were harvested, weighted, frozen and lyophilized. The dried cells were extracted with methanol in a Soxhlet extractor and the extract was evaporated to dryness at 40° C. with a Buchi Rotoevaporator. The residue was dissolved in 0.5N HCl and extracted with ether. The aqueous layer was brought to pH 9.5 with NaOH, extracted twice with ether and the combined two ether extracts were dried with K2CO3, prior to adding HCl and then evaporating to dryness. The residue was dissolved in 0.5N HCl and aliquots were applied to TLC plates of silica gel G (Merck). The plates were developed in 85:14:1 chloroform-ethanol-ammonia, dried in a stream of N2, and alkaloids were visualized by Dragendorff's reagent. Quantitatively the alkaloids were determined by GLC analysis. In absence of elicitor there were obtained 2.8×10-3 % (dry weight) nicotine, compared with 2.2% (dry weight) in presence of elicitor, the latter representing a 7.8×103 fold enhancement of yield. The dry weight of cells at the end of the run was 3.2 g. per flask.

reactant | 1-naphthaleneacetic acid | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | kinetin | C=1C=C(OC1)CNC2=C3C(N=CN3)=NC=N2 | C10H9N5O
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | carborundum | [C-]#[Si+] | CSi
product | nicotine | 2.8×10-3 % | N1=CC=CC(=C1)C1N(C)CCC1 | C10H14N2
